US05801170
2-Methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)-1,1'-biphenyl-4-carboxylic acid
The title compound was prepared from 3-(4-bromophenyl)-5-methyl-1,2,4-oxadiazole (1 g) and 4-borono-3-methylbenzoic acid (D74, 0.75 g) as a white solid (0.3 g, 24%) by the method described in Description 15.

reactant | 3-(4-bromophenyl)-5-methyl-1,2,4-oxadiazole | 1 g | BrC1=CC=C(C=C1)C1=NOC(=N1)C | C9H7BrN2O
reactant | 4-borono-3-methylbenzoic acid | 0.75 g | B(O)(O)C1=C(C=C(C(=O)O)C=C1)C | C8H9BO4
product | 2-Methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)-1,1'-biphenyl-4-carboxylic acid | CC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C | C17H14N2O3
